data/mechanisms/records/IMS8-EQ8.3d.json
{"mechanism_id": "IMS8-EQ8.3d", "species": [{"species_id": "butyl_methyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][O+:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methoxymethylene_oxocarbenium", "mapped_smiles": "[CH2:4]=[O+:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "propyl_radical", "mapped_smiles": "[CH3:1][CH2:2][CH2:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butyl_methyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methoxymethylene_oxocarbenium", "propyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 141, "equation": "8.3", "section": "8.2 Product stability -- Charge competition in OE(+.) decompositions: Stevenson's Rule"}, "confidence": 0.9, "curator_note": "Eq 8.3 row 2, second branch, arrow labeled 'alpha'. Radical-site (alpha) cleavage driven by the ether oxygen radical cation: the odd electron on O5 forms the new C4=O5 pi bond (methoxymethylene oxocarbenium CH2=O(+)-CH3, m/z 45) while the C3-C4 sigma bond breaks and the propyl group departs as the neutral radical .C3H7. The printed IE for forming this resonance-stabilized cation is 6.9 eV, far below IE(C3H7.)=8.1 eV, so per Stevenson's rule charge migration to the oxocarbenium overwhelmingly wins (100% vs the 4% C3H7+ inductive branch 8.3c). Book draws 0 arcs (summary equation); the three fishhooks (O5 odd electron -> C4=O5 pi; one electron of the C3-C4 bond -> the same pi; the second electron of that bond -> the departing propyl radical) are the standard balanced radical-site alpha-cleavage flow, reconstructed here. DELOCALIZATION: CH2=O(+)-CH3 is the oxocarbenium resonance form of (+)CH2-O-CH3; the double-bonded form is the one encoded."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+.", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 88.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_oxocarbenium", "species_id": "methoxymethylene_oxocarbenium", "step_id": "step_alpha_cleavage", "observed_mz": 45.0335, "relative_intensity": 1.0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
